US06608078B2
A mixture of 1,3-dibenzyl-4-hydroxypiperidine (1.7 g, 6.0 mmole) and 20% palladium hydroxide (0.3 g) in methanol (20 ml) was stirred in hydrogen atmosphere (1 atm.) for 12 hr at 35° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 4-hydroxy-3-benzylpiperidine as oil. Yield 1.0 g (91%), C12H17NO, m/z 192 (M+1) PMR (CDCl3): 1.66 (1H, m, H3), 1.94 (1H, m, H5), 2.26 (2H, m, H5, & OH, D2O exchangeable), 2.62 (1H, m, H2), 2.74 (1H, m, H6), 3.02 (1H, m, H2), 3.34 (1H, m, H6), 3.52 (1H, bs, NH, D2O exchangeable), 3.9 (1H, m, H4), 4.74 (2H, m, CH2-Ar), 7.28 (5H, m, ArH).

reactant | 1,3-dibenzyl-4-hydroxypiperidine | 6.0 mmole, 1.7 g | C(C1=CC=CC=C1)N1CC(C(CC1)O)CC1=CC=CC=C1 | C19H23NO
solvent | methanol | 20 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.3 g | [OH-].[Pd+2].[OH-]
product | 4-hydroxy-3-benzylpiperidine | OC1C(CNCC1)CC1=CC=CC=C1 | C12H17NO
